US07705027B2
1-(3-Bromo-phenyl)-4-methyl-piperazine
1,3-Dibromobenzene (0.90 ml, 7.49 mmol), N-methylpiperazine (0.28 ml, 2.50 mmol) and anhydrous toluene (7 ml) were added by syringe to a dry, argon filled flask. The solution was thoroughly mixed before BINAP (47 mg) and Pd2 dba3 (23 mg) were delivered and the flask refilled with Argon and DBU (0.93 g, 2.5 equiv.) added via syringe. The reaction mixture was warmed to 60° C. before freshly ground sodium tertbutoxide was added in one portion to start the reaction. The reaction was left stirring at 60° C. overnight and the TLC analysis appeared to show that some piperazine was still present so the reaction was heated to 100° C. and stirred for another 24 hrs after which it was partitioned between EtOAc (20 ml) and water (20 ml). The aqueous layer was extracted again with EtOAc and the combined organics were washed with 1.6M HCl solution (2×10 ml). The acidic solution containing the product was then basified first with a similar volume of 1M NaOH solution to acid solution and then carefully solid sodium bicarbonate was added to make the pH=8.5 before extraction back into EtOAc (2×15 ml), which was washed with brine, dried over MgSO4 and evaporated to dryness to provide 0.50 g (78% yield) of the pure product as a yellow oil.

reactant | 1,3-Dibromobenzene | 7.49 mmol, 0.90 ml | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | N-methylpiperazine | 2.50 mmol, 0.28 ml | CN1CCNCC1 | C5H12N2
reactant | DBU | 0.93 g, 2.5 equiv. | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | sodium tertbutoxide | CC(C)([O-])C.[Na+]
reactant | piperazine | N1CCNCC1 | C4H10N2
catalyst | Pd2 dba3 | 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 47 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-Bromo-phenyl)-4-methyl-piperazine | 0.50 g, 78% yield | BrC=1C=C(C=CC1)N1CCN(CC1)C | C11H15BrN2
